US04806651
A solution of oxalyl chloride (175 mL, 254.6 g, 2.01M) was cooled to 5°, and a solution of diphenylamine (320 g, 1.89M) in toluene (580 mL) added over 8 minutes. The mixture was heated to 50°-65° for 74 minutes. The mixture was then heated to 125° to distill toluene and excess oxalyl chloride; total distillate collected was 630 mL. The solution was then refluxed at 125°±2° for 20 hours to form indoline-2,3-dione. The mixture was cooled to 104°, and a solution of 4-picoline (215 mL, 205.7 g, 2.21M) in acetic acid (750 mL) was added over 17 minutes. The mixture was heated to 130° to remove excess toluene via acetic acid/toluene azeotrope. Additional acetic acid (750 mL) was added during the distillation. A total of 875 mL distillate containing 260 mL toluene was collected. The mixture was cooled to 115°, and acetic anhydride (360 mL, 389.5 g, 3.81M) added over 10 minutes while heating to 120°-130°. The mixture was stirred at 120°±2° for 1.75 hours, and then cooled to 76°. Water (530 mL) was added over 7 minutes followed by isopropanol (430 mL) while maintaining the temperature between 82° and 63°. The mixture was cooled to ambient temperature overnight, then to 0°-5°. The crude product was collected by filtration, washed with isopropanol (2.16 l) and water 1.64 l). Drying in a vacuum oven at 80°-90° yielded the title compound (422.6 g, 75%) as an orange crystalline solid. M.P.: 160.1°-161.9°.

reactant | oxalyl chloride | 2.01M, 175 mL, 254.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diphenylamine | 1.89M, 320 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | toluene | 580 mL | C1(=CC=CC=C1)C | C7H8
product | indoline-2,3-dione | N1C(C(C2=CC=CC=C12)=O)=O | C8H5NO2
